US06486191B2
1.4 g (10 mmol) of potassium carbonate are added to a solution of 1.7 g (7 mmol) of 2,5-dibromo-4-methyl-1H-imidazole in 40 ml of acetonitrile at room temperature. The mixture is stirred for 10 minutes at room temperature, and 1.7 g (7 mmol) of 2-methyl-5-nitro-benzenesulphonyl chloride are then added. Stirring is carried out for a further 20 hours at room temperature and the reaction mixture is then poured onto 100 ml of water. The mixture formed is extracted twice with 50 ml of diethylether in each case. The combined organic~phases are dried over sodium sulphate and then evaporated down under reduced pressure. The remaining residue is chromatographed on silica gel using methylene chloride as mobile phase. 1.6 g (51% of theory) of 1-(2-methyl-5-nitro-benzenesulphonyl)-2,4-dibromo-5-methyl-1H-imidazole are obtained in this manner in the form of a colorless solid substance of melting point 187 to 189° C.

reactant | potassium carbonate | 10 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-dibromo-4-methyl-1H-imidazole | 7 mmol, 1.7 g | BrC=1NC(=C(N1)C)Br | C4H4Br2N2
reactant | 2-methyl-5-nitro-benzenesulphonyl chloride | 7 mmol, 1.7 g | CC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)Cl | C7H6ClNO4S
reactant | water | 100 ml | O | H2O
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 1-(2-methyl-5-nitro-benzenesulphonyl)-2,4-dibromo-5-methyl-1H-imidazole | 1.6 g, 51% | CC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)N1C(=NC(=C1C)Br)Br | C11H9Br2N3O4S
